US09328106B2
Intermediate 142 3-(3,5-difluorophenyl)tetrahydrofuran-3-ol
to a solution of 1-bromo-3,5-difluoro-benzene (4.00 g, 20.7 mmol) in tetrahydrofuran (70 mL) under nitrogen was added magnesium (6.0 equiv., 124 mmol) and the solution was heated at 85° C. for three hours. The solution was cooled to rt and 3-oxotetrahydrofuran (1 equiv., 20.726 mmol) in THF (20 mL) was added via syringe. The mixture was stirred at rt for three days. The reaction was quenched with sat NaHCO3, extracted with EtOAc and washed with brine. Purification by CombiFlash (0 to 100% EtOAc in heptane) provided the title compound (405 mg, 9.7%).

reactant | 1-bromo-3,5-difluoro-benzene | 20.7 mmol, 4.00 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | magnesium | 124 mmol, 6.0 equiv. | [Mg] | Mg
reactant | 3-oxotetrahydrofuran | 20.726 mmol, 1 equiv. | O=C1COCC1 | C4H6O2
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3,5-difluorophenyl)tetrahydrofuran-3-ol | 405 mg, 9.7% | FC=1C=C(C=C(C1)F)C1(COCC1)O | C10H10F2O2
